US07253196B2
To a 50 mL round-bottomed flask was added (1S,4R)-bicyclo[2.2.1]heptane-2-carboxylic acid (9.84 g, 70 mmol) and bromine (4.10 ml, 80 mmol). The suspension was stirred at room temperature until dissolution. Trichlorophosphine (0.30 ml, 3.4 mmol) was then added slowly and drop wise (significant exotherm observed). A reflux condenser was fitted to the flask with a nitrogen gas inlet and gas outlet (Tygon tubing) running into a scrubber solution of sodium sulfite (1 M, 200 mL). After the addition was complete, the reaction mixture was heated in a silicone oil bath at 80° C. for 4 h. After this time, the reaction was cooled to 10° C. and phosphorus-trichloride (4.23 ml, 48.3 mmol) was added drop-wise. The reaction was then heated to 80° C. During this time the color intensity of the reaction decreased, and after 8 h, the reaction mixture appeared dark orange. The reaction was then cooled to room temperature and diluted with ether (1 L). The ethereal solution was transferred to a separation funnel and washed with 1M sodium sulfite (2×500 mL), water (1×500 mL), and brine (1×500 mL). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to afford an oil. Ice cold pentane (50 mL) was then added to the crude product, and the mixture was stirred vigorously. After 20 min, a fine white precipitate formed, which was filtered and washed with pentane (20 mL) and then air dried under a gentle vacuum to afford (4S)-2-bromobicyclo[2.2.1]heptane-1-carboxylic acid (100.2 g, 457 mmol) as a white solid material.

reactant | (1S,4R)-bicyclo[2.2.1]heptane-2-carboxylic acid | 70 mmol, 9.84 g | [C@H]12C(C[C@H](CC1)C2)C(=O)O | C8H12O2
reactant | bromine | 80 mmol, 4.10 ml | BrBr | Br2
reactant | Tygon | CC(=O)OC=C.C=CCl
reactant | sodium sulfite | 1 M, 200 mL | S(=O)([O-])[O-].[Na+].[Na+]
reactant | phosphorus-trichloride | 48.3 mmol, 4.23 ml | P(Cl)(Cl)Cl | Cl3P
solvent | ether | 1 L | CCOCC | C4H10O
catalyst | Trichlorophosphine | 3.4 mmol, 0.30 ml | ClP(Cl)Cl | Cl3P
product | (4S)-2-bromobicyclo[2.2.1]heptane-1-carboxylic acid | 457 mmol, 100.2 g | BrC1C2(CC[C@H](C1)C2)C(=O)O | C8H11BrO2
